US04209611
Glucose monohydrate:
Between about 36 and 48 hours of fermentation time, steffimycin B is added to the fermentation as a dimethylformamide solution (25 mg/ml) to a final medium concentration of 25 mg/l. The fermentation is monitored using tlc on silica gel plates with CHCl3 :CH3OH (925:75) as the developing solvent system. The tlc procedure is conducted at half day intervals between the first half day and five days.

reactant | steffimycin B | CC1C(C(C(C(O1)OC2C(C(C(=O)C3=C2C(=C4C(=C3)C(=O)C5=CC(=CC(=C5C4=O)O)OC)O)(C)O)OC)OC)O)OC | C29H32O13
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | CHCl3 CH3OH | C(Cl)(Cl)Cl.CO
product | Glucose monohydrate | O.O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | InChI=1S/C6H12O6.H2O/c7-1-3(9)5(11)6(12)4(10)2-8;/h1,3-6,8-12H,2H2;1H2/t3-,4+,5+,6+;/m0./s1
